US07846929B2
To a solution of 3-Methanesulfonylamino-pyrrolidine-1-carboxylic acid tert-butyl ester (0.47 g) in DMF (5 mL) was added NaH (63 mg). The mixture was stirred for 40 min. then a solution of 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (0.52 g) in DMF (5 mL) was added via cannular. The resulting mixture was stirred at R.T. for 5 h. An aqueous work-up followed by purification on silica gave 3-[(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methanesulfonyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (384 mg).

reactant | 3-Methanesulfonylamino-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.47 g | C(C)(C)(C)OC(=O)N1CC(CC1)NS(=O)(=O)C | C10H20N2O4S
reactant | NaH | 63 mg | [H-].[Na+]
reactant | 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 0.52 g | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methanesulfonyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 384 mg | C(C)(C)(C)OC(=O)N1CC(CC1)N(S(=O)(=O)C)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C21H30ClN5O5S2
